US09210927B2
Step 1. Methyl 4-amino-3,5-dibromobenzoate
conc. H2SO4 (1.35 mL, 25.48 mmol) was added dropwise to a stirred solution of 4-amino-3,5-dibromobenzoic acid (5.0 g, 16.99 mmol) in MeOH (50 mL) at ambient temperature and the reaction mixture was then stirred at 80° C. for 8 h. The reaction mixture was allowed to cool to ambient temperature, volatiles were evaporated and ice-water was added to the residue and extracted with EtOAc. The organic layer was washed with aqueous NaHCO3 solution followed by brine and water, dried (Na2SO4), filtered and concentrated to afford the title compound as an off white solid (5.0 g, 95%): 1H NMR (300 MHz, DMSO-d6) δ 7.91 (s, 2H), 6.20 (bs, 2H), 3.78 (s, 3H); ESIMS m/z 307.0 ([M]+); IR (thin film) 3312, 2953, 1726, 595 cm−1.

reactant | H2SO4 | 25.48 mmol, 1.35 mL | OS(=O)(=O)O | H2O4S
reactant | 4-amino-3,5-dibromobenzoic acid | 16.99 mmol, 5.0 g | NC1=C(C=C(C(=O)O)C=C1Br)Br | C7H5Br2NO2
reactant | MeOH | 50 mL | CO | CH4O
product | Methyl 4-amino-3,5-dibromobenzoate | NC1=C(C=C(C(=O)OC)C=C1Br)Br | C8H7Br2NO2
